US07754737B2
To a solution of (R)-tert-butyl 3-(3-chloro-2-fluorobenzoyl)piperidine-1-carboxylate (7.75 g, 22.7 mmol) in MeOH (160 mL) was added NaBH4 (6.9 g, 182 mmol) in portions such that the temperature remained below 40° C. After addition, the mixture was stirred at rt for 3 h. TLC showed the start material had disappeared. The solvent was removed in vacuo and the residue was partitioned between water and EtOAc. The organic layer was washed with H2O and brine, dried over Na2SO4 and evaporated to give (R)-tert-butyl 3-((3-chloro-2-fluorophenyl)(hydroxy)methyl)piperidine-1-carboxylate (4.35 g, 56%) which was used in the next step without purification. MS (E/Z): 344 (M+H+).

reactant | (R)-tert-butyl 3-(3-chloro-2-fluorobenzoyl)piperidine-1-carboxylate | 22.7 mmol, 7.75 g | ClC=1C(=C(C(=O)[C@H]2CN(CCC2)C(=O)OC(C)(C)C)C=CC1)F | C17H21ClFNO3
reactant | NaBH4 | 182 mmol, 6.9 g | [BH4-].[Na+]
solvent | MeOH | 160 mL | CO | CH4O
product | (R)-tert-butyl 3-((3-chloro-2-fluorophenyl)(hydroxy)methyl)piperidine-1-carboxylate | 4.35 g, 56% | ClC=1C(=C(C=CC1)C([C@H]1CN(CCC1)C(=O)OC(C)(C)C)O)F | C17H23ClFNO3
